US04644061
C. 5-Acetylmercaptomethyl-2-methyltetrazole
To a solution of 5-hydroxymethyl-2-methyltetrazole (1.83 g, 11.7 mmol) in dry dichloromethane (25 mL) at 0° C. was added methanesulfonyl chloride (1.47 g, 12.9 mmol) followed by triethylamine (1.30 g, 12.9 mmol) added dropwise over five min. The mixture was stirred at 0° C. for 1 h, and then treated with a solution of potassium thioacetate (1.60 g, 14.0 mmol) in dry N,N-dimethylformamide (10 mL). The resulting gel was stirred at 0° C. for 3 h. The reaction mixture was diluted with dichloromethane (200 mL), washed with brine (20 mL) and dried over anhydrous sodium sulfate. Evaporation of the solvent under vacuum and chromatography of the resulting oil over silica gel (2×15 cm, eluting with dichloromethane and dichloromethaneacetone 5%) gave the title compound as a clear oil: 1.31 g (65%); ir (film) νmax : 1696 cm-1 (C=O of thioester); 1Hmr (CDCl3) δ: 2.43 (3H, s, SAc), 4.36 (3H, s, 2-CH3), 4.38 ppm (2H, s, 5-CH2).

reactant | 5-hydroxymethyl-2-methyltetrazole | 11.7 mmol, 1.83 g | OCC=1N=NN(N1)C | C3H6N4O
reactant | methanesulfonyl chloride | 12.9 mmol, 1.47 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 12.9 mmol, 1.30 g | C(C)N(CC)CC | C6H15N
reactant | potassium thioacetate | 14.0 mmol, 1.60 g | C(C)(=S)[O-].[K+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-Acetylmercaptomethyl-2-methyltetrazole | C(C)(=O)SCC=1N=NN(N1)C | C5H8N4OS
